US04826858
3-Cyano-2-methoxy-6-methylpyridine is oxidised with potassium permanganate in aqueous solution to give 5-cyano-6-methoxypyridine-2-carboxylic acid (m.p. 235°-237° C.), subsequent hydrogenation of which on palladium/charcoal in isopropanol/water/hydrochloric acid gives the desired compound.

reactant | 3-Cyano-2-methoxy-6-methylpyridine | C(#N)C=1C(=NC(=CC1)C)OC | C8H8N2O
reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | isopropanol water hydrochloric acid | C(C)(C)O.O.Cl
product | 5-cyano-6-methoxypyridine-2-carboxylic acid | C(#N)C=1C=CC(=NC1OC)C(=O)O | C8H6N2O3
